### PR TITLE
[Merged by Bors] - feat(Analysis/Hermitian): more lemma to convert between IsHermitian and IsSymmetric

### PR DESCRIPTION
**Pull request by wwylele**
Separated from #37325

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Matrix/Hermitian.lean [hunk 1]
```diff
@@ -38,22 +39,39 @@ lemma IsHermitian.coe_re_apply_self (h : A.IsHermitian) (i : n) : (re (A i i) :
...
+  simpa using (LinearMap.ext fun x ↦ ext_inner_right _ (h x)).symm
+
+/-- A matrix is Hermitian iff the corresponding linear map on the Euclidean space is self adjoint.
+-/
+@[simp]
+lemma isSymmetric_toEuclideanLin_iff [Fintype n] [DecidableEq n] :
+    A.toEuclideanLin.IsSymmetric ↔ A.IsHermitian :=
+  isSymmetric_toLin_iff (EuclideanSpace.basisFun n 𝕜)
+
+@[deprecated isSymmetric_toEuclideanLin_iff (since := "2026-03-30")]
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Hermitian.lean]: not sure how to state the reverse here, maybe something like this?
```suggestion
@[deprecated isSymmetric_toEuclideanLin_iff "use isSymmetric_toEuclideanLin_iff.symm"
  (since := "2026-03-30")]
```

File: Mathlib/Analysis/Matrix/Hermitian.lean [hunk 2]
```diff
@@ -38,22 +39,39 @@ lemma IsHermitian.coe_re_apply_self (h : A.IsHermitian) (i : n) : (re (A i i) :
...
+lemma isSymmetric_toLin_iff [Fintype n] [DecidableEq n] {E : Type*}
+    [NormedAddCommGroup E] [InnerProductSpace 𝕜 E] (b : OrthonormalBasis n 𝕜 E) :
+    (A.toLin b.toBasis b.toBasis).IsSymmetric ↔ A.IsHermitian := by
+  have : FiniteDimensional 𝕜 E := b.toBasis.finiteDimensional_of_finite
+  simp_rw [LinearMap.IsSymmetric, ← LinearMap.adjoint_inner_left, ← toLin_conjTranspose]
+  refine ⟨fun h ↦ ?_, fun h _ _ ↦ by rw [h.eq]⟩
+  simpa using (LinearMap.ext fun x ↦ ext_inner_right _ (h x)).symm
+
+/-- A matrix is Hermitian iff the corresponding linear map on the Euclidean space is self adjoint.
+-/
```
Comment (themathqueen) [inline Mathlib/Analysis/Matrix/Hermitian.lean]: looks better than just nothing?
```suggestion
/-- A matrix is Hermitian iff the corresponding linear map on the Euclidean space is self
adjoint. -/
```

**Review by themathqueen — APPROVED** [review]

File: Mathlib/Analysis/Matrix/Hermitian.lean [hunk 3]
```diff
@@ -38,22 +39,40 @@ lemma IsHermitian.coe_re_apply_self (h : A.IsHermitian) (i : n) : (re (A i i) :
 lemma IsHermitian.coe_re_diag (h : A.IsHermitian) : (fun i => (re (A.diag i) : 𝕜)) = A.diag :=
   funext h.coe_re_apply_self
 
-/-- A matrix is Hermitian iff the corresponding linear map is self adjoint. -/
+/-- A matrix is Hermitian iff the corresponding linear map with an orthonormal basis is self
+adjoint. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Hermitian.lean]:
```suggestion
/-- A matrix is Hermitian iff the corresponding linear map with an orthonormal basis is
symmetric. -/
```

File: Mathlib/Analysis/Matrix/Hermitian.lean [hunk 4]
```diff
@@ -38,22 +39,40 @@ lemma IsHermitian.coe_re_apply_self (h : A.IsHermitian) (i : n) : (re (A i i) :
...
+lemma isSymmetric_toLin_iff [Fintype n] [DecidableEq n] {E : Type*}
+    [NormedAddCommGroup E] [InnerProductSpace 𝕜 E] (b : OrthonormalBasis n 𝕜 E) :
+    (A.toLin b.toBasis b.toBasis).IsSymmetric ↔ A.IsHermitian := by
+  have : FiniteDimensional 𝕜 E := b.toBasis.finiteDimensional_of_finite
+  simp_rw [LinearMap.IsSymmetric, ← LinearMap.adjoint_inner_left, ← toLin_conjTranspose]
+  refine ⟨fun h ↦ ?_, fun h _ _ ↦ by rw [h.eq]⟩
+  simpa using (LinearMap.ext fun x ↦ ext_inner_right _ (h x)).symm
+
+/-- A matrix is Hermitian iff the corresponding linear map on the Euclidean space is self
+adjoint. -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Hermitian.lean]:
```suggestion
/-- A matrix is Hermitian iff the corresponding linear map on the Euclidean space is
symmetric. -/
```

File: Mathlib/Analysis/Matrix/Hermitian.lean [hunk 5]
```diff
@@ -38,22 +39,40 @@ lemma IsHermitian.coe_re_apply_self (h : A.IsHermitian) (i : n) : (re (A i i) :
...
 
 lemma IsHermitian.im_star_dotProduct_mulVec_self [Fintype n] (hA : A.IsHermitian) (x : n → 𝕜) :
      RCLike.im (star x ⬝ᵥ A *ᵥ x) = 0 := by
   classical
-  simpa [dotProduct_comm] using (isHermitian_iff_isSymmetric.mp hA).im_inner_self_apply _
+  simpa [dotProduct_comm] using (isSymmetric_toEuclideanLin_iff.mpr hA).im_inner_self_apply _
 
 end Matrix
+
+/-- A linear map is self adjoint iff the corresponding matrix with an orthonormal basis is
```
Comment (j-loreaux) [inline Mathlib/Analysis/Matrix/Hermitian.lean]:
```suggestion
/-- A linear map is symmetric iff the corresponding matrix with an orthonormal basis is
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+
